US09085555B2
3-Chloro-4-fluoro-5-{[((2S,4R)-4-fluoro-pyrrolidine-2-carbonyl)-amino]-methyl}-benzoic acid
To a mixture of (2S,4R)-2-(5-carboxy-3-chloro-2-fluoro-benzylcarbamoyl)-4-fluoro-pyrrolidine-1-carboxylic acid tert-butyl ester (146 mg, 0.3 mmol) in CH2Cl2 (4 mL) was added TFA (1 mL). The reaction mixture was stirred for 1 h at ambient temperature and the solvent was removed in vacuo to give the title compound which was used without further purification. tR (HPLC conditions c): 3.11 min.

reactant | (2S,4R)-2-(5-carboxy-3-chloro-2-fluoro-benzylcarbamoyl)-4-fluoro-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.3 mmol, 146 mg | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)F)C(NCC1=C(C(=CC(=C1)C(=O)O)Cl)F)=O | C18H21ClF2N2O5
reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
product | 3-Chloro-4-fluoro-5-{[((2S,4R)-4-fluoro-pyrrolidine-2-carbonyl)-amino]-methyl}-benzoic acid | ClC=1C=C(C(=O)O)C=C(C1F)CNC(=O)[C@H]1NC[C@@H](C1)F | C13H13ClF2N2O3
